US08304557B2
To a solution of N-{3-[(6-aminopyridin-3-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (4.71 g, 12.2 mmol) in dimethyl sulfoxide (100 mL) was added ethyl isothiocyanatocarbonate (1.73 mL, 14.6 mmol), and the mixture was stirred at room temperature for 6 hr. Water (300 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL, 50 mL). The combined organic layer was washed with saturated brine (50 mL) and dried over anhydrous magnesium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure to give ethyl ({5-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy]pyridin-2-yl}carbamothioyl)carbamate as a yellow amorphous solid. The obtained compound was used in the next reaction without further purification.

reactant | N-{3-[(6-aminopyridin-3-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 12.2 mmol, 4.71 g | NC1=CC=C(C=N1)OC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(C)(C)C#N)=O | C23H22N4O2
reactant | ethyl isothiocyanatocarbonate | 14.6 mmol, 1.73 mL | C(OCC)(=O)N=C=S | C4H5NO2S
reactant | Water | 300 mL | O | H2O
solvent | dimethyl sulfoxide | 100 mL | CS(=O)C | C2H6OS
product | ethyl ({5-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy]pyridin-2-yl}carbamothioyl)carbamate | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=CC(=C(OC=2C=CC(=NC2)NC(=S)NC(OCC)=O)C1)C | C27H27N5O4S
